US06660744B1
A solution of fluorenylmethyloxycarbonyl isothiocyanate (1.36 g, 4.84 mmol, Kearney, P. C.; Fernandez, M.; Flygare, J. A. J. Org. Chem. 1998, 63, 196-200) in dichloromethane (40 mL) was added via a pipet to a solution of 4-Bromoaniline (0.86 g, 5.00 mmol) in dichloromethane (10 mL) maintained at 0° C. and the resulting mixture stirred at ambient temperature for 14 h. The reaction was diluted with dichloromethane (60 mL) and washed with aqueous hydrochloric acid (0.5 M, 2×10 mL). The organic layer was dried (magnesium sulfate), filtered, and concentrated to afford the 9H-9-fluorenyl-methyl-N-[(4-bromoanilino)carbothioyl]carbamate (2.25 g, 4.97 mmol): RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 14.25 min.

reactant | fluorenylmethyloxycarbonyl isothiocyanate | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)N=C=S | C16H11NO2S
reactant | 4-Bromoaniline | 5.00 mmol, 0.86 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 9H-9-fluorenyl-methyl-N-[(4-bromoanilino)carbothioyl]carbamate | 4.97 mmol, 2.25 g | C1=CC=CC=2C3=CC=CC=C3C(C12)OC(N(C(=S)NC1=CC=C(C=C1)Br)C)=O | C22H17BrN2O2S
